US08202858B2
1-(4-Cyclopropylaminomethyl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
Cyclopropyl-(1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester from Example E86.3 (220 mg, 0.35 mmol) was dissolved in methanol (5 ml) and 4M HCl solution in dioxan (5 ml) was added. The mixture was stirred for 2 h at room temperature then concentrated in vacuo to give an off-white solid identified as the title compound (189 mg, 95%).

reactant | Cyclopropyl-(1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O)C2CC2)=O | C36H46N6O4
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Cyclopropylaminomethyl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | 189 mg, 95% | C1(CC1)NCC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C31H38N6O2
